US09359345B2
To a 500 mL round bottom flask were added (R)-piperidin-3-yl-carbamic acid tert-butyl ester (10.3 g, 51.6 mmol), cesium carbonate (33.6 g, 103 mmol), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (BrettPhos, CAS number 1070663-78-3) (369 mg, 688 μmol) and 2-bromothiazole-4-carbonitrile (6.5 g, 34.4 mmol) followed by tert-butanol (225 mL). The mixture was degassed under vacuum (˜50 mmHg) while sonicating and the flask then charged with argon. Degassing repeated twice. Tris-(dibenzylideneacetone)dipalladium(0) (CAS number 51364-51-3) (315 mg, 344 μmol) was added and the flask evacuated and recharged with argon. Repeated twice. The reaction flask was transferred to an aluminum block heating mantle and heated to reflux under argon for 5 hours. The reaction mixture was cooled to ambient temperature and poured into water (1 L), extracted with ethyl acetate (3×200 mL), the combined organic extracts washed with brine (2×200 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography using a 330 g silica column gradient eluted from 10% up to 40% ethyl acetate in hexanes at a flow rate of 100 mL/min Product containing fractions were combined and concentrated in vacuo to give of [(R)-1-(4-cyano-thiazol-2-yl)-piperidin-3-yl]-carbamic acid tert-butyl ester as an off white solid (8.75 g, 78%).

reactant | (R)-piperidin-3-yl-carbamic acid tert-butyl ester | 51.6 mmol, 10.3 g | C(C)(C)(C)OC(N[C@H]1CNCCC1)=O | C10H20N2O2
reactant | cesium carbonate | 103 mmol, 33.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 688 μmol, 369 mg | C1(CCCCC1)P(C1=C(C(=CC=C1OC)OC)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C35H53O2P
reactant | 2-bromothiazole-4-carbonitrile | 34.4 mmol, 6.5 g | BrC=1SC=C(N1)C#N | C4HBrN2S
solvent | tert-butanol | 225 mL | C(C)(C)(C)O | C4H10O
product | [(R)-1-(4-cyano-thiazol-2-yl)-piperidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C=1SC=C(N1)C#N)=O | C14H20N4O2S
